US06169075A
A solution of N-benzyloxycarbonyl-L-isoleucine (10.0 g, 37.7 mmol) in DCM 150 mL) was treated with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (7.94 g, 41.5 mmol), cyclopentanol (3.90 g, 45.2 mmol) and N,N-dimethylaminopyridine reaction mixture was washed with 1M hydrochloric acid, saturated sodium bicarbonate, and brine before drying over magnesium sulphate, filtration and removal of solvent under reduced pressure to leave N-benzyloxycarbonyl-L-isoleucine cyclopentyl ester as a colourless oil (10.99 g, 87%). 1H-NMR; δ (CDCl3) 7.44-7.30 (5H, m), 5.37-5.34 (1H, m), 5.22-5.18 (1H, 5.11 (2H, s), 4.33-4.27 (1H, m), 1.90-1.55 (10H, m), 1.51-1.35 (1H, m), 1.28-1.20 (2H, m), 0.93 (3H, d, J 6.9 Hz) and 0.91 (3H, d, J=7.0 Hz).

reactant | N-benzyloxycarbonyl-L-isoleucine | 37.7 mmol, 10.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C14H19NO4
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 41.5 mmol, 7.94 g | Cl.CN(CCCN=C=NCC)C
reactant | cyclopentanol | 45.2 mmol, 3.90 g | C1(CCCC1)O | C5H10O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-L-isoleucine cyclopentyl ester | 10.99 g, 87% | C1(CCCC1)OC([C@@H](NC(=O)OCC1=CC=CC=C1)[C@@H](C)CC)=O | C19H27NO4
